data/mechanisms/records/IMS8-EQ8.109.json
{"mechanism_id": "IMS8-EQ8.109", "species": [{"species_id": "bromophenyl_pyridyl_ethylene_molecular_ion", "mapped_smiles": "[CH2:8]=[C:7]([C:1]1=[C:2]([Br:15])[CH:3]=[CH:4][CH:5]=[CH:6]1)[C:10]1=[N+:9][CH:14]=[CH:13][CH:12]=[CH:11]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methylidene_pyrido_isoindolium_ion", "mapped_smiles": "[CH2:8]=[C:7]1[C:10]2=[N+:9]([CH:14]=[CH:13][CH:12]=[CH:11]2)[C:2]2=[C:1]1[CH:6]=[CH:5][CH:4]=[CH:3]2", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "bromine_radical", "mapped_smiles": "[Br:15]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["bromophenyl_pyridyl_ethylene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["methylidene_pyrido_isoindolium_ion", "bromine_radical"]}], "steps": [{"step_id": "step_rd_ring_closure_loss_of_X", "from_state": "state_precursor", "to_state": "state_products", "step_class": "radical_site_displacement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 15]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 15]}, "target": {"type": "atom", "atom_maps": [15]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_rd_8_109", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rd_ring_closure_loss_of_X", "support_type": "textbook_proposed", "locator": {"page": 215, "equation": "8.109", "figure": null, "panel": "single arrow labelled '- X.'", "section": "8.11 Other rearrangements"}, "confidence": 0.8, "curator_note": "TEXT ON THE PAGE: 'The proximity of two aromatic rings leads to very facile displacement decompositions such as the one in Equation 8.109 (Schubert, Grützmacher 1980).' WHAT THE BOOK DRAWS: the precursor is 1-(2-halophenyl)-1-(2-pyridyl)ethylene enclosed in square brackets with '+.' outside the bracket - i.e. the charge and odd electron are assigned to the WHOLE molecule, not to a drawn atom. The reaction arrow is labelled '- X.'. The product is the tetracyclic ring-closed cation: the pyridine nitrogen is now bonded to the benzene carbon that carried X, creating a five-membered ring (benzene ipso C - C(=CH2) - pyridine C2 - N - benzene ortho C), the exocyclic =CH2 is retained, and a bare '+' is printed under the nitrogen. ARC COUNT (convention D): Book draws 0 arc(s). There is NO curved arrow, fishhook or barb in Equation 8.109; only the two structures and the '- X.' arrow label are printed. All three encoded moves <1,2,3> are therefore IMPLICIT, supplied by the curator for electron balance and not drawn on the page: <1> the nitrogen's odd electron into the forming N-C2 bond, <2> one electron of the breaking C2-X sigma bond into that same forming bond, <3> the second electron of the C2-X bond onto X, which is what makes the X. that the arrow label names. This 'radical site attacks, radical leaves' bookkeeping is the section's rd (radical-site displacement) pattern, the same one drawn explicitly with fishhooks in Equation 8.108 immediately above; the book leaves it implicit here. LOCALIZATION (conventions B and C): because the '+.' sits outside the bracket the curator had to localize it. The odd electron is placed in the nitrogen n orbital ([N+:9] carrying one sigma bond to C14 and one double bond to C10 = one unpaired electron in RDKit), which is both the lowest-IE site of the molecule and the atom that must attack, so move <1> has a real origin. KEKULE CHOICE: the two rings are written in exactly the Kekule form the book draws - in the pyridine the double bond runs from N to the SUBSTITUTED carbon (N9=C10, then C11=C12 and C13=C14), and in the benzene the double bond lies along the C1=C2 bond that becomes the ring-fusion bond (then C3=C4 and C5=C6). The identical bond orders are kept in the product, so the only bond changes intended by the step are the C2-Br cleavage and the N9-C2 formation; no ring is deliberately re-kekulized. VALIDATOR ARTEFACT (expected, soft): the arrow check nevertheless reports six '(soft) (aromatic/delocalised)' +/-0.5 bond-order notes on the six pyridine ring bonds (maps 9-10, 10-11, 11-12, 12-13, 13-14, 9-14). They are a perception artefact, not a missing arrow: RDKit refuses to aromatize the n-ionized precursor ring (an N+ carrying an unpaired electron) and keeps the written Kekule orders 1/2, but it does aromatize the closed-shell N-aryl pyridinium of the product to uniform order 1.5, so every ring bond appears to move by half an order. No electron moves are missing - the six deltas sum to zero around the ring. INSTANTIATION (convention F): the figure writes only 'X' and the prose never names the halogen, so X = Br is a CURATOR CHOICE made to give computable masses (with X = Cl the precursor would be 215.0496 instead, and the product ion is unchanged at 180.0802 either way). MS CONTEXT (convention G): page 215 names no ionization or activation method and no electron energy; the reacting species is the whole-molecule odd-electron radical cation drawn in brackets with '+.', so ms_context uses the convention-G molecular-ion default (EI, adduct [M]+., 70 eV). The 70 eV figure is the book's standing convention, NOT a number printed on this page."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 258.9986, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_180", "species_id": "methylidene_pyrido_isoindolium_ion", "step_id": "step_rd_ring_closure_loss_of_X", "observed_mz": 180.0802, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
